US04387100
A solution of 3.51 g of methanesulfonyl chloride in 5 ml of diethyl ether was added dropwise over a period of 0.5 hour to a stirred solution of 7.0 g of 4-benzyloxyphenethyl alcohol in 20 ml of pyridine at 0° C. Stirring was continued for 2 hours while the mixture was allowed to warm to room temperature: The mixture was then partitioned between 150 ml of 2 N hydrochloric acid and dichloromethane. The organic phase was separated, washed with water, dried over sodium sulfate, filtered, and evaporated. Trituration of the residue with n-hexane brought about crystallization. The crystals were removed by filtration and dried, whereby 8.9 g (95%) of 1-benzyloxy-4-(2-methanesulfonyloxyethyl)benzene having a melting point of 60°-64° C. were obtained.

reactant | methanesulfonyl chloride | 3.51 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-benzyloxyphenethyl alcohol | 7.0 g | C(C1=CC=CC=C1)OC1=CC=C(CCO)C=C1 | C15H16O2
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1-benzyloxy-4-(2-methanesulfonyloxyethyl)benzene | 8.9 g, 95% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCOS(=O)(=O)C | C16H18O4S
